US04721702
Diphenylamine and 5 times the molar amount of resorcin were reacted at 200° C. for 20 hours in the presence of a phosphoric acid catalyst to obtain a hydroxytriphenylamine derivative. In the product was dissolved double the molar amount of phthalic anhydride by heating at 150° C. for 4 hours in the presence of a zinc chloride catalyst. After completion of the reaction, the reaction mixture was worked up in the same manner as in Synthesis Example 1 to obtain 3'-diphenylamino-6'-(N-p-isopropylphenylanilino)spiro[isobenzofuran-1(3H),9'-(9H)-xanthen]-3-one and 3-diphenylamino-7,12-dihydro-12,12-dimethyl-7-phenyl-spiro[14H-[1]benzopyrano[3,2-b]acridine-14,1'[13'H]-isobenzofuran]-3'-one.

reactant | Diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | resorcin | C1(O)=CC(O)=CC=C1 | C6H6O2
catalyst | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | hydroxytriphenylamine | OC1=C(C=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO
